US09428509B2
4-((4-(3,3-Difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide
A mixture of 4-(2-chloro-4-(3,3-difluorocyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide (1 equiv), 4-amino-3-methoxy-N-(oxetan-3-yl)benzamide (1 equiv), and cesium carbonate (3 equiv) in 1,4-dioxane (0.1 M) was degassed with N2 for 10 min. Then (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.2 equiv), tris(dibenzylideneacetone)dipalladium(0) (0.1 equiv), were added to this mixture. The mixture was stirred at 140° C. for 1.5 h. After cooling to room temperature, the reaction mixture was purified using silica gel chromatography (0-100% ethyl acetate in hexane then 0-20% MeOH in DCM) to afford the title compound (78.3% yield). MS (ESI) m/z 709.4 [M+1]+.

reactant | 4-(2-chloro-4-(3,3-difluorocyclobutoxy)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CC(C2)(F)F | C24H29ClF2N4O3Si
reactant | 4-amino-3-methoxy-N-(oxetan-3-yl)benzamide | 1 equiv | NC1=C(C=C(C(=O)NC2COC2)C=C1)OC | C11H14N2O3
reactant | cesium carbonate | 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.2 equiv | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | 1,4-dioxane | 0.1 M | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | MeOH | CO | CH4O
product | 4-((4-(3,3-Difluorocyclobutoxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-(oxetan-3-yl)benzamide | 78.3% yield | FC1(CC(C1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC3COC3)C=C1)OC)N(C=C2C2=CC=C(C=C2)C(NC)=O)COCC[Si](C)(C)C)F | C35H42F2N6O6Si
